US07645753B2
3-Ethoxy-4,5-dihydroxy-benzaldehyde [CAS RN 62040-18-0]
The title compound was prepared analogously to intermediate 2 (4-methoxy-3-propoxy-benzaldehyde) by reaction of 3,4,5-trihydroxybenzaldehyde with ethyl iodide in DMF using K2CO3 as base. MS (ISN): 181.1 [M−H]−.

reactant | 3,4,5-trihydroxybenzaldehyde | OC=1C=C(C=O)C=C(C1O)O | C7H6O4
reactant | ethyl iodide | C(C)I | C2H5I
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-Ethoxy-4,5-dihydroxy-benzaldehyde | C(C)OC=1C=C(C=O)C=C(C1O)O | C9H10O4
